US09388197B2
A.2.10.1. Synthesis of 2-((3,5-dichloro-2-cyanobenzyl)oxy)ethyl acetate
To a soln. of 2-(bromomethyl)-4,6-dichlorobenzonitrile (1.3 mmol) (A.2.2.1.) and 2-hydroxyethyl acetate (1.43 mmol) in 7 mL THF was added NaH (1.95 mmol, 60% suspension in oil). The reaction mixture was stirred at RT overnight and then poured into a 1M HCl soln. The mixture was extracted twice with EtOAc. The comb. org. layers were washed with brine, dried over MgSO4 and conc. in vacuo. Purification with CC (0-25% EtOAc/Hept) gives the desired compound as orange oil.

reactant | 2-(bromomethyl)-4,6-dichlorobenzonitrile | 1.3 mmol | BrCC1=C(C#N)C(=CC(=C1)Cl)Cl | C8H4BrCl2N
reactant | 2-hydroxyethyl acetate | 1.43 mmol | C(C)(=O)OCCO | C4H8O3
reactant | NaH | 1.95 mmol | [H-].[Na+]
reactant | HCl | 1M | Cl | ClH
solvent | THF | 7 mL | C1CCOC1 | C4H8O
product | 2-((3,5-dichloro-2-cyanobenzyl)oxy)ethyl acetate | C(C)(=O)OCCOCC1=C(C(=CC(=C1)Cl)Cl)C#N | C12H11Cl2NO3
